US06028096
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-phenylmethylamino-4-trifluoroacetylpyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoroacetylpyrazole (1 g) in anhydrous N,N-dimethylformamide (4 ml) at room temperature was added potassium carbonate (0.7 g), then benzyl bromide (228 μl). The mixture was stirred at room temperature for 40 minutes. Water (50 ml) was then added, and the mixture was extracted with ether (50 ml, ×2). The combined organic layers were washed with water (50 ml), dried (Na2SO4), filtered and evaporated. The residue was purified by column chromatography on silica gel (50 g) eluted with dichloromethane. Combination and evaporation of suitable fractions gave the title compound as a white solid, m.p 75-76° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoroacetylpyrazole | 1 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C(C(F)(F)F)=O | C13H4Cl2F6N4O
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 228 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-phenylmethylamino-4-trifluoroacetylpyrazole | C(#N)C1=NN(C(=C1C(C(F)(F)F)=O)NCC1=CC=CC=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C20H10Cl2F6N4O
